US06376664B1
A solution of silver hyperchlorate (57 mg, 0.27 mmol) in water (2 mL) was added to a solution of 4-dibromomethyl-N-methyl-2-(2-nitrophenyl)-benzimidazole (39 mg, 0.9 mmol) in 1,4-dioxane (2 mL). The mixture was refluxed for 5 h to afford a grey suspension. After cooling to room temperature, the precipitate was filtered off through a pad of celite and washed with ethyl acetate. The filtrate was washed with water and brine, dried over Na2SO4. Concentration using a rotary evaporator and subsequent column chromatography on silica gel using hexane/ethyl acetate (1:3) as the eluent to give N-methyl-2-(2-nitrophenyl)-benzimidazole-4-benzaldehyde (24 g, 93%) as a light-yellow solid. Rf=0.23 (hexane/ethyl acetate=1:3); 1H NMR (250 MHz, CDCl3) δ 3.68 (s, 3H), 7.47 (t, J=7.8 Hz, 1H), 7.66-7.74 (m, 2H), 7.77-7.86 (m, 2H). 7.90 (d, J=7.6 Hz, 1H), 8.28 (dd, J,=7.9 Hz, J2 =1.5 Hz, 1H), 10.81 (s, 1H). HRMS: Calcd for C1H11N3O3 281.0800, found 281.0814.

reactant | 4-dibromomethyl-N-methyl-2-(2-nitrophenyl)-benzimidazole | 0.9 mmol, 39 mg | BrC(C1=CC=CC=2N(C(=NC21)C2=C(C=CC=C2)[N+](=O)[O-])C)Br | C15H11Br2N3O2
reactant | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | silver | [Ag] | Ag
product | N-methyl-2-(2-nitrophenyl)-benzimidazole-4-benzaldehyde | 24 g, 93% | CN1C(=NC2=C1C=CC=C2C2=CC=CC=C2C=O)C2=C(C=CC=C2)[N+](=O)[O-] | C21H15N3O3
